US05185468
In a 50-ml round-bottom flask 2.01 g (purity: 40.9%, 1.15 mmoles) of 1-phenylsulfonyl-4-chloro-1,18-di(2,6,6-trimethyl-1-cyclohexen-1-yl)-3,7,12,16-tetramethyloctadeca-2,7,9,11,13,15,17-heptaene was reacted with 1.0 g (purity: 80%, 11 mmoles) of potassium methoxide in 4 g of toluene at 30° C. for 2 hours. Then water was added to the reaction mixture. The resulting organic layer was separated and washed with water, followed by removal of the solvent, to give 2.58 g (purity: 19.1%, 0.918 mmole, yield: 80%) of a-crude β-carotene. To this product 10 g of water was added. The mixture was heat-refluxed for 10 hours and subjected to extraction with toluene to remove organic substances, followed by recrystallization of the residue from toluene-methanol solvent, to give 44 mg of a dark brown crystal. The crystal thus obtained was confirmed to be β-carotene by comparison with standard sample.

reactant | 1-phenylsulfonyl-4-chloro-1,18-di(2,6,6-trimethyl-1-cyclohexen-1-yl)-3,7,12,16-tetramethyloctadeca-2,7,9,11,13,15,17-heptaene | 1.15 mmoles, 2.01 g | C1(=CC=CC=C1)S(=O)(=O)C(C=C(C(CCC(=CC=CC=C(C=CC=C(C=CC1=C(CCCC1(C)C)C)C)C)C)Cl)C)C1=C(CCCC1(C)C)C | C46H63ClO2S
reactant | potassium methoxide | 11 mmoles, 1.0 g | C[O-].[K+]
reactant | water | O | H2O
solvent | toluene | 4 g | C1(=CC=CC=C1)C | C7H8
product | β-carotene | 0.918 mmole, 2.58 g, yield: 80% | CC1=C(C(CCC1)(C)C)/C=C/C(=C/C=C/C(=C/C=C/C=C(/C=C/C=C(/C=C/C2=C(CCCC2(C)C)C)\C)\C)/C)/C | C40H56
